US08106043B2
7-Nitro-2H-benzo[b][1,4]thiazin-3(4H)-one:
To a stirred solution of 2-amino-5-nitrobenzenethiol (1.72 g, 10.11 mmol) in tetrahydrofuran (10 mL) was added sodium bicarbonate (2.80 g, 33.4 mmol) as a solution in water (40.0 mL). To this dark red solution was added 2-chloroacetyl chloride (0.885 mL, 11.12 mmol). The resulting mixture, which turned faint red, was then stirred at room temperature overnight. The mixture was then diluted with water and extracted three time with dichloromethane . The combined organics were dried, filtered, concentrated, and then chromatographed in 10% ethyl acetate in dichloromethane, giving the desired product (1.02 g, 48.0%). 1H NMR (DMSO-d6) δ 11.17 (s, 1H), 8.24 (d, J=2.7 Hz, 1H), 8.07 (dd, J=9.0, 2.7 Hz, 1H), 7.13 (d, J=9.0 Hz, 1H), 3.60 (s, 2H); MS-EI: (m/z, %) 210 (M+, 100), 181 (40), 131 (46).

reactant | 2-amino-5-nitrobenzenethiol | 10.11 mmol, 1.72 g | NC1=C(C=C(C=C1)[N+](=O)[O-])S | C6H6N2O2S
reactant | sodium bicarbonate | 33.4 mmol, 2.80 g | C([O-])(O)=O.[Na+]
reactant | 2-chloroacetyl chloride | 11.12 mmol, 0.885 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 40.0 mL | O | H2O
product | 7-Nitro-2H-benzo[b][1,4]thiazin-3(4H)-one | 1.02 g, 48.0% | [N+](=O)([O-])C=1C=CC2=C(SCC(N2)=O)C1 | C8H6N2O3S
